US07816540B2
b) 1-(4-Amino-3-fluoro-phenoxy)-cyclopropanecarboxylic acid methyl ester
To a solution of 4.49 g (17.6 mmol) 1-(3-fluoro-4-nitro-phenoxy)-cyclopropanecarboxylic acid methyl ester in 50 mL ethanol 0.5 g 10% palladium on charcoal was added and the suspension stirred for 8 h at room temperature under an atmosphere of hydrogen (1.7 bar). After the addition of 100 mL ethyl acetate the catalyst was filtered off, the filtrate evaporated and dried under high vacuum to give the title compound as a brown oil (98%) which was used in the next step without further purification.

reactant | 1-(3-fluoro-4-nitro-phenoxy)-cyclopropanecarboxylic acid methyl ester | 17.6 mmol, 4.49 g | COC(=O)C1(CC1)OC1=CC(=C(C=C1)[N+](=O)[O-])F | C11H10FNO5
reactant | ethyl acetate | 100 mL | C(C)(=O)OCC | C4H8O2
solvent | ethanol | 50 mL, 0.5 g | C(C)O | C2H6O
product | 1-(4-Amino-3-fluoro-phenoxy)-cyclopropanecarboxylic acid methyl ester | 98% | COC(=O)C1(CC1)OC1=CC(=C(C=C1)N)F | C11H12FNO3
